US07507839B2
1,4-bis(5-acetyl-4-methoxybenzofuran-6-yloxymethyl)benzene
The compound was prepared from visnaginone and α,α′-dibromo-p-xylene according to the General Procedure. Purification by flash chromatography eluting with ethyl acetate/cyclohexane (1:9 to 2:8) afforded the product (20 mg, 8%) as a white solid:

reactant | visnaginone | CC(=O)C1=C(C=C2C(=C1OC)C=CO2)O | C11H10O4
reactant | α,α′-dibromo-p-xylene | BrCC1=CC=C(C=C1)CBr | C8H8Br2
product | 1,4-bis(5-acetyl-4-methoxybenzofuran-6-yloxymethyl)benzene | 20 mg, 8% | C(C)(=O)C=1C(=CC2=C(C=CO2)C1OC)OCC1=CC=C(C=C1)COC1=CC2=C(C=CO2)C(=C1C(C)=O)OC | C30H26O8
